US07476677B2
6-[4-(3-Iodophenyl)-1-methyl-1H-imidazol-5-yl]thieno[2,3-d]pyrimidin-4-amine
6-[4-(3-iodophenyl)-1-methyl-1H-imidazol-5-yl]-4-(methylsulfonyl)thieno[2,3-d]pyrimidine (200 mg) and concentrated aqueous ammonia (5 mL) was stirred in 1,4-dioxane (15 mL) for 17 hours. The solvent was evaporated and the residue purified by chromatography on silica eluting with a gradient of 0-50% EtOAc/DCM then 0-20% MeOH/DCM to give the title compound as a colourless solid (136 mg, 78%);

reactant | 6-[4-(3-iodophenyl)-1-methyl-1H-imidazol-5-yl]-4-(methylsulfonyl)thieno[2,3-d]pyrimidine | 200 mg | IC=1C=C(C=CC1)C=1N=CN(C1C1=CC2=C(N=CN=C2S(=O)(=O)C)S1)C | C17H13IN4O2S2
reactant | ammonia | 5 mL | N | H3N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 6-[4-(3-Iodophenyl)-1-methyl-1H-imidazol-5-yl]thieno[2,3-d]pyrimidin-4-amine | 136 mg, 78% | IC=1C=C(C=CC1)C=1N=CN(C1C1=CC2=C(N=CN=C2N)S1)C | C16H12IN5S
